US06586421B2
Preparation of tert-butyl 6-{2-[(methylsulfonyl)oxy]ethyl}-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
tert-Butyl 6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.181 g, 0.549 mmol) and triethylamine (0.115 mL, 0.0833 g, 0.824 mmol, 1.5 equiv.) were dissolved in CH2Cl2 at −10° C. under N2. MsCl (0.0510 mL, 0.0755 g, 0.659 mmol, 1.2 equiv.) was added and the reaction mixture was stirred for 30 min. The reaction mixture was taken up in EtOAc (25 mL) and was washed sequentially with 10% citric acid (10 mL), 5% NaHCO3 (10 mL), and brine (10 mL). The organic layer was dried over MgSO4, filtered, and concentrated. The crude tert-butyl 6-{2-[(methylsulfonyl)oxy]ethyl}-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate was used directly in the next reaction.

reactant | tert-Butyl 6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.549 mmol, 0.181 g | OCCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C19H26N2O3
reactant | triethylamine | 0.824 mmol, 0.115 mL, 0.0833 g, 1.5 equiv. | C(C)N(CC)CC | C6H15N
reactant | MsCl | 0.659 mmol, 0.0510 mL, 0.0755 g, 1.2 equiv. | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 6-{2-[(methylsulfonyl)oxy]ethyl}-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | CS(=O)(=O)OCCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C20H28N2O5S
